US07943613B2
To a degassed solution of 4-bromotoluene (4.27 g, 25 mmol) in tetrahydrofuran (30 mL) was added in the following order: copper(I) iodide (143 mg, 0.75 mol), tetrakis(triphenylphosphine)palladium (0.85 g, 7.5 mmol), and 1,8-diazabicyclo[5.4.0]undec-7-ene (4.55 g, 30 mmol). The resulting mixture was degassed one more time, cooled in an ice bath and a solution of propargyl alcohol (1.68 g, 30 mmol) in tetrahydrofuran (5 mL) was added over period of 10 min. The reaction mixture was slowly heated up to 55° C. and then stirred at this temperature for 20 h. This mixture was then cooled to ambient temperature, diluted with ether (150 mL) and water (50 mL) and acidified with 5% hydrochloric acid. The ethereal layer was separated and the aqueous layer was extracted with ether (3×30 mL). The combined organic portions were washed with 5% hydrochloric acid (2×30 mL), saturated aqueous solution of sodium hydrogen carbonate (2×30 mL), dried with anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (silica gel Fluka 60, chloroform) affording 3-(4-methylphenyl)prop-2-yn-1-ol as oil.

reactant | 4-bromotoluene | 25 mmol, 4.27 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 30 mmol, 4.55 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | propargyl alcohol | 30 mmol, 1.68 g | C(C#C)O | C3H4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | water | 50 mL | O | H2O
catalyst | copper(I) iodide | 0.75 mol, 143 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 7.5 mmol, 0.85 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-methylphenyl)prop-2-yn-1-ol | CC1=CC=C(C=C1)C#CCO | C10H10O
